* File: G4_MUX2_N3.pex.netlist.pex
* Created: Tue Mar 15 11:34:09 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_MUX2_N3_VDD 2 4 6 8 10 12 14 16 18 20 38 49 51 58 64 72 77 81 84
+ 85 89 93 95 96 99 101 105 107 111 113 115 120 122 124 125 126 127 128 134 139
+ 148 Vss
c131 148 Vss 0.00702165f
c132 139 Vss 0.00462928f
c133 134 Vss 0.00483792f
c134 128 Vss 4.52364e-19
c135 127 Vss 2.39889e-19
c136 126 Vss 4.24532e-19
c137 125 Vss 2.39889e-19
c138 122 Vss 0.00282332f
c139 120 Vss 0.0106931f
c140 115 Vss 0.00186946f
c141 113 Vss 0.006422f
c142 111 Vss 8.80889e-19
c143 107 Vss 0.00804399f
c144 105 Vss 0.00134677f
c145 101 Vss 0.00193004f
c146 99 Vss 3.98903e-19
c147 96 Vss 6.1175e-19
c148 95 Vss 0.00358057f
c149 93 Vss 0.00108621f
c150 89 Vss 0.00158874f
c151 86 Vss 0.00176185f
c152 85 Vss 0.0067647f
c153 84 Vss 0.00573691f
c154 81 Vss 0.00850511f
c155 77 Vss 0.00688835f
c156 72 Vss 0.00820121f
c157 64 Vss 8.40042e-20
c158 59 Vss 0.0806024f
c159 58 Vss 0.103898f
c160 49 Vss 0.0356247f
c161 48 Vss 0.101315f
c162 39 Vss 0.0367394f
c163 38 Vss 0.101469f
c164 18 Vss 0.188795f
c165 16 Vss 0.00143493f
c166 14 Vss 0.191141f
c167 10 Vss 0.187414f
c168 8 Vss 0.189706f
c169 6 Vss 0.190935f
c170 4 Vss 0.189249f
r171 121 128 0.551426
r172 121 122 5.50157
r173 120 128 0.551426
r174 119 120 18.3386
r175 115 128 0.0828784
r176 115 117 1.82344
r177 114 127 0.494161
r178 113 119 0.652036
r179 113 114 10.1279
r180 111 148 1.16709
r181 109 127 0.128424
r182 109 111 2.16729
r183 108 126 0.494161
r184 107 122 0.652036
r185 107 108 13.0037
r186 103 126 0.128424
r187 103 105 6.16843
r188 102 125 0.494161
r189 101 127 0.494161
r190 101 102 4.58464
r191 99 139 1.16709
r192 97 125 0.128424
r193 97 99 2.16729
r194 95 126 0.494161
r195 95 96 7.46046
r196 93 134 1.16709
r197 91 96 0.652036
r198 91 93 2.16729
r199 87 124 0.306046
r200 87 89 1.82344
r201 85 125 0.494161
r202 85 86 10.1279
r203 84 124 0.349767
r204 83 86 0.652036
r205 83 84 5.50157
r206 81 117 1.16709
r207 77 105 1.16709
r208 72 89 1.16709
r209 64 148 0.0476429
r210 64 66 1.92555
r211 59 66 0.5835
r212 58 60 0.652036
r213 58 59 2.8008
r214 55 66 0.0685365
r215 51 139 0.0476429
r216 49 51 1.45875
r217 48 52 0.652036
r218 48 51 1.45875
r219 45 49 0.652036
r220 41 134 0.0476429
r221 39 41 1.45875
r222 38 42 0.652036
r223 38 41 1.45875
r224 35 39 0.652036
r225 20 81 0.123773
r226 18 60 5.1348
r227 16 77 0.123773
r228 14 55 5.1348
r229 12 77 0.123773
r230 10 52 5.1348
r231 8 45 5.1348
r232 6 35 5.1348
r233 4 42 5.1348
r234 2 72 0.123773
.ends

.subckt PM_G4_MUX2_N3_VSS 2 4 6 8 10 12 14 16 18 20 38 39 41 48 49 59 72 77 81
+ 84 89 94 99 104 109 118 123 132 140 141 146 152 153 158 164 170 172 177 179
+ 181 182 183 184 185 Vss
c124 185 Vss 4.28045e-19
c125 184 Vss 3.62111e-19
c126 183 Vss 3.91906e-19
c127 182 Vss 3.21876e-19
c128 179 Vss 0.00582395f
c129 177 Vss 0.00193102f
c130 172 Vss 0.00135159f
c131 170 Vss 0.00259462f
c132 164 Vss 0.00592925f
c133 158 Vss 0.00385718f
c134 153 Vss 5.94991e-19
c135 152 Vss 0.00258264f
c136 147 Vss 0.00135554f
c137 146 Vss 0.00523922f
c138 141 Vss 0.00344346f
c139 140 Vss 0.00104615f
c140 132 Vss 0.00918942f
c141 123 Vss 0.00383026f
c142 118 Vss 0.00413434f
c143 109 Vss 3.63432e-19
c144 104 Vss 0.0017597f
c145 99 Vss 0.00131312f
c146 94 Vss 6.11605e-19
c147 89 Vss 0.00100326f
c148 84 Vss 0.00146588f
c149 81 Vss 0.00807726f
c150 77 Vss 0.00622224f
c151 72 Vss 0.0101685f
c152 65 Vss 0.0783825f
c153 59 Vss 0.0350566f
c154 58 Vss 0.0688416f
c155 49 Vss 0.0347733f
c156 48 Vss 0.100364f
c157 41 Vss 8.95828e-20
c158 39 Vss 0.0350852f
c159 38 Vss 0.0994129f
c160 20 Vss 0.190105f
c161 16 Vss 0.189529f
c162 14 Vss 0.00143493f
c163 12 Vss 0.189243f
c164 10 Vss 0.189689f
c165 4 Vss 0.190073f
c166 2 Vss 0.189016f
r167 178 185 0.551426
r168 178 179 18.3386
r169 177 185 0.551426
r170 176 177 5.50157
r171 172 185 0.0828784
r172 171 184 0.494161
r173 170 179 0.652036
r174 170 171 4.41793
r175 166 184 0.128424
r176 165 183 0.494161
r177 164 176 0.652036
r178 164 165 13.0037
r179 160 183 0.128424
r180 159 182 0.494161
r181 158 184 0.494161
r182 158 159 10.2946
r183 154 182 0.128424
r184 152 183 0.494161
r185 152 153 7.46046
r186 148 153 0.652036
r187 146 182 0.494161
r188 146 147 10.1279
r189 142 181 0.306046
r190 141 147 0.652036
r191 140 181 0.349767
r192 140 141 5.50157
r193 109 172 1.82344
r194 104 132 1.16709
r195 104 166 2.16729
r196 99 160 6.16843
r197 94 123 1.16709
r198 94 154 2.16729
r199 89 118 1.16709
r200 89 148 2.16729
r201 84 142 1.82344
r202 81 109 1.16709
r203 77 99 1.16709
r204 72 84 1.16709
r205 65 132 0.0476429
r206 63 65 1.8672
r207 60 63 0.0685365
r208 58 63 0.5835
r209 58 59 2.8008
r210 55 59 0.652036
r211 51 123 0.0476429
r212 49 51 1.45875
r213 48 52 0.652036
r214 48 51 1.45875
r215 45 49 0.652036
r216 41 118 0.0476429
r217 39 41 1.45875
r218 38 42 0.652036
r219 38 41 1.45875
r220 35 39 0.652036
r221 20 60 5.1348
r222 18 81 0.123773
r223 16 55 5.1348
r224 14 77 0.123773
r225 12 52 5.1348
r226 10 45 5.1348
r227 8 77 0.123773
r228 6 72 0.123773
r229 4 35 5.1348
r230 2 42 5.1348
.ends

.subckt PM_G4_MUX2_N3_ZI 2 4 6 8 10 12 27 28 43 47 50 55 60 65 81 82 91 Vss
c65 82 Vss 9.82283e-19
c66 81 Vss 0.00344769f
c67 65 Vss 0.00531208f
c68 60 Vss 0.00107621f
c69 55 Vss 0.00120586f
c70 50 Vss 0.00184713f
c71 47 Vss 0.00665316f
c72 43 Vss 0.00665316f
c73 28 Vss 0.206957f
c74 27 Vss 8.47557e-20
c75 23 Vss 0.0247918f
c76 12 Vss 0.00143493f
c77 10 Vss 0.00143493f
c78 4 Vss 0.189507f
c79 2 Vss 0.180667f
r80 87 91 0.494161
r81 83 91 0.494161
r82 81 91 0.128424
r83 81 82 13.2121
r84 77 82 0.652036
r85 60 87 5.50157
r86 55 83 6.16843
r87 50 65 1.16709
r88 50 77 2.16729
r89 47 60 1.16709
r90 43 55 1.16709
r91 31 65 0.0476429
r92 29 31 0.326018
r93 29 31 0.1167
r94 28 32 0.652036
r95 28 31 6.7686
r96 27 65 0.357321
r97 23 31 0.326018
r98 23 27 0.40845
r99 12 47 0.123773
r100 10 43 0.123773
r101 8 47 0.123773
r102 6 43 0.123773
r103 4 32 5.1348
r104 2 27 4.72635
.ends

.subckt PM_G4_MUX2_N3_Z 2 4 13 16 Vss
c13 16 Vss 2.03714e-19
c14 13 Vss 0.00452755f
c15 4 Vss 0.00143493f
r16 16 19 0.0416786
r17 13 19 1.16709
r18 4 13 0.123773
r19 2 13 0.123773
.ends

.subckt PM_G4_MUX2_N3_SELI 2 4 6 8 18 21 29 33 36 38 43 44 52 57 71 76 77 Vss
c72 77 Vss 8.29462e-19
c73 76 Vss 1.71087e-19
c74 71 Vss 0.00163664f
c75 57 Vss 0.00292618f
c76 52 Vss 0.00318194f
c77 44 Vss 0.00264419f
c78 43 Vss 8.75265e-19
c79 38 Vss 0.00210957f
c80 36 Vss 3.78531e-19
c81 33 Vss 0.00302148f
c82 29 Vss 0.00524134f
c83 21 Vss 0.16662f
c84 18 Vss 7.81442e-20
c85 6 Vss 0.166657f
c86 4 Vss 0.00143493f
r87 76 77 0.655813
r88 75 76 3.501
r89 71 75 0.655813
r90 43 52 1.16709
r91 43 71 2.00578
r92 43 44 0.513084
r93 38 57 1.16709
r94 38 77 2.00578
r95 36 44 7.46046
r96 31 36 0.652036
r97 31 33 7.91893
r98 29 33 1.16709
r99 21 57 0.50025
r100 18 52 0.50025
r101 8 21 4.37625
r102 6 18 4.37625
r103 4 29 0.123773
r104 2 29 0.123773
.ends

.subckt PM_G4_MUX2_N3_SEL 2 4 6 8 16 17 22 26 33 36 40 41 44 45 47 49 56 57 59
+ 64 69 Vss
c65 69 Vss 0.00293892f
c66 64 Vss 0.00330355f
c67 59 Vss 0.00281287f
c68 57 Vss 3.29949e-19
c69 56 Vss 0.00195862f
c70 49 Vss 4.84367e-19
c71 47 Vss 0.00164668f
c72 45 Vss 5.48919e-19
c73 44 Vss 0.00192809f
c74 41 Vss 0.00187197f
c75 36 Vss 8.44333e-20
c76 33 Vss 9.14819e-20
c77 26 Vss 0.16662f
c78 22 Vss 0.180313f
c79 20 Vss 0.0247918f
c80 17 Vss 0.0358843f
c81 16 Vss 0.179072f
c82 8 Vss 0.16662f
c83 2 Vss 0.193774f
r84 55 64 1.16709
r85 55 57 0.4602
r86 55 56 0.52504
r87 52 59 1.16709
r88 49 52 0.5835
r89 47 69 1.16709
r90 45 47 2.00578
r91 43 45 0.655813
r92 43 44 3.501
r93 41 44 0.655813
r94 41 57 1.49522
r95 40 56 2.58407
r96 38 49 0.0685365
r97 38 40 2.00057
r98 36 59 0.0476429
r99 33 69 0.50025
r100 26 64 0.50025
r101 22 59 0.357321
r102 20 36 0.326018
r103 20 22 0.40845
r104 17 36 6.7686
r105 16 36 0.326018
r106 16 36 0.1167
r107 13 17 0.652036
r108 8 33 4.37625
r109 6 26 4.37625
r110 4 22 4.72635
r111 2 13 5.1348
.ends

.subckt PM_G4_MUX2_N3_B 2 4 14 17 20 23 Vss
c30 23 Vss 0.00439028f
c31 20 Vss 2.87096e-19
c32 14 Vss 0.0853197f
c33 2 Vss 0.656289f
r34 20 23 1.16709
r35 17 20 0.109406
r36 14 23 0.0476429
r37 11 14 1.92555
r38 7 11 0.0685365
r39 4 7 5.1348
r40 2 4 17.9718
.ends

.subckt PM_G4_MUX2_N3_A 2 4 12 14 20 23 Vss
c24 23 Vss 0.00548676f
c25 20 Vss 2.95003e-19
c26 14 Vss 0.0835366f
c27 12 Vss 8.63834e-20
c28 2 Vss 0.664171f
r29 17 23 1.16709
r30 17 20 0.0364688
r31 12 23 0.0476429
r32 12 14 1.92555
r33 7 14 0.0685365
r34 2 4 17.9718
r35 2 7 5.1348
.ends

