* File: G3_MUXI2_N1.pex.netlist.pex
* Created: Wed Mar  9 13:36:32 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_MUXI2_N1_VSS 2 4 6 8 10 12 14 29 31 39 63 68 73 78 83 92 101 110
+ 115 121 127 133 135 140 142 144 145 146 147 Vss
c86 147 Vss 4.28045e-19
c87 146 Vss 3.62111e-19
c88 145 Vss 3.75522e-19
c89 142 Vss 0.00430383f
c90 140 Vss 0.00143623f
c91 135 Vss 0.00139741f
c92 133 Vss 0.002505f
c93 128 Vss 0.00127887f
c94 127 Vss 0.00644124f
c95 121 Vss 0.00399642f
c96 116 Vss 0.0013489f
c97 115 Vss 0.00539877f
c98 110 Vss 0.00225019f
c99 109 Vss 0.00129191f
c100 101 Vss 0.00660977f
c101 92 Vss 0.00400552f
c102 83 Vss 1.70165e-19
c103 78 Vss 0.00106984f
c104 73 Vss 0.00241148f
c105 68 Vss 2.9197e-19
c106 63 Vss 0.00126608f
c107 45 Vss 0.0785271f
c108 39 Vss 0.0343198f
c109 38 Vss 0.0688517f
c110 31 Vss 7.82991e-20
c111 29 Vss 0.0338093f
c112 28 Vss 0.0998552f
c113 14 Vss 0.0835744f
c114 12 Vss 0.00226958f
c115 10 Vss 0.0837985f
c116 8 Vss 7.32238e-19
c117 6 Vss 0.0838866f
c118 4 Vss 0.0825199f
c119 2 Vss 0.00266844f
r120 141 147 0.551426
r121 141 142 13.3371
r122 140 147 0.551426
r123 139 140 4.16786
r124 135 147 0.0828784
r125 134 146 0.494161
r126 133 142 0.652036
r127 133 134 4.41793
r128 129 146 0.128424
r129 127 139 0.652036
r130 127 128 13.0037
r131 123 128 0.652036
r132 122 145 0.494161
r133 121 146 0.494161
r134 121 122 10.2946
r135 117 145 0.128424
r136 115 145 0.494161
r137 115 116 10.1279
r138 111 144 0.306046
r139 110 116 0.652036
r140 109 144 0.349767
r141 109 110 4.16786
r142 83 135 1.82344
r143 78 101 1.16709
r144 78 129 2.16729
r145 73 123 4.83471
r146 68 92 1.16709
r147 68 117 2.16729
r148 63 111 1.82344
r149 45 101 0.238214
r150 43 45 1.8672
r151 40 43 0.0685365
r152 38 43 0.5835
r153 38 39 2.8008
r154 35 39 0.652036
r155 31 92 0.238214
r156 29 31 1.45875
r157 28 32 0.652036
r158 28 31 1.45875
r159 25 29 0.652036
r160 14 40 2.5674
r161 12 83 1.16709
r162 10 35 2.5674
r163 8 73 1.16709
r164 6 32 2.5674
r165 4 25 2.5674
r166 2 63 1.16709
.ends

.subckt PM_G3_MUXI2_N1_VDD 2 4 6 8 12 14 28 38 60 62 63 66 68 72 74 75 76 77 78
+ 79 81 82 87 88 90 99 Vss
c99 99 Vss 0.00651319f
c100 90 Vss 0.00555165f
c101 88 Vss 3.54369e-19
c102 82 Vss 4.42156e-19
c103 81 Vss 0.00190072f
c104 79 Vss 0.00690705f
c105 78 Vss 8.63529e-19
c106 77 Vss 4.40622e-19
c107 76 Vss 0.00130949f
c108 75 Vss 6.09322e-19
c109 74 Vss 0.00547771f
c110 72 Vss 9.38425e-19
c111 68 Vss 0.00834424f
c112 66 Vss 0.00132511f
c113 63 Vss 6.1175e-19
c114 62 Vss 0.00344974f
c115 60 Vss 0.00121763f
c116 39 Vss 0.0805612f
c117 38 Vss 0.102888f
c118 29 Vss 0.0355046f
c119 28 Vss 0.1003f
c120 14 Vss 0.00271849f
c121 12 Vss 0.0806222f
c122 8 Vss 0.0814405f
c123 6 Vss 0.00155055f
c124 4 Vss 0.0842982f
c125 2 Vss 0.0825186f
r126 80 88 0.537385
r127 80 81 4.16786
r128 79 88 0.537385
r129 78 87 0.326018
r130 78 79 13.3788
r131 77 84 0.510562
r132 76 88 0.0936215
r133 76 77 1.35523
r134 74 87 0.326018
r135 74 75 10.1279
r136 72 99 1.16709
r137 70 75 0.652036
r138 70 72 2.16729
r139 69 82 0.494161
r140 68 81 0.652036
r141 68 69 13.0037
r142 64 82 0.128424
r143 64 66 4.83471
r144 62 82 0.494161
r145 62 63 7.46046
r146 60 90 1.16709
r147 58 63 0.652036
r148 58 60 2.16729
r149 44 99 0.238214
r150 44 46 1.92555
r151 39 46 0.5835
r152 38 40 0.652036
r153 38 39 2.8008
r154 35 46 0.0685365
r155 31 90 0.238214
r156 29 31 1.45875
r157 28 32 0.652036
r158 28 31 1.45875
r159 25 29 0.652036
r160 14 84 1.16709
r161 12 40 2.5674
r162 8 35 2.5674
r163 6 66 1.16709
r164 4 25 2.5674
r165 2 32 2.5674
.ends

.subckt PM_G3_MUXI2_N1_SELI 2 6 8 21 33 35 38 43 53 58 72 77 78 Vss
c67 78 Vss 3.71671e-19
c68 72 Vss 0.00114167f
c69 58 Vss 0.00216403f
c70 53 Vss 0.00206075f
c71 43 Vss 9.19217e-19
c72 38 Vss 0.00147194f
c73 36 Vss 0.00160147f
c74 35 Vss 0.00416276f
c75 33 Vss 0.00272744f
c76 21 Vss 0.0575023f
c77 6 Vss 0.0575023f
c78 2 Vss 0.00148239f
r79 77 78 0.655813
r80 76 77 3.501
r81 72 76 0.655813
r82 43 53 1.16709
r83 43 72 2.00578
r84 43 46 0.833571
r85 38 58 1.16709
r86 38 78 2.00578
r87 35 46 0.0685365
r88 35 36 7.46046
r89 31 36 0.652036
r90 31 33 5.58493
r91 21 58 0.50025
r92 18 53 0.50025
r93 8 21 1.80885
r94 6 18 1.80885
r95 2 33 1.16709
.ends

.subckt PM_G3_MUXI2_N1_SEL 2 4 6 8 16 22 26 36 37 40 42 46 51 58 63 68 72 77 78
+ Vss
c73 78 Vss 8.48303e-20
c74 77 Vss 2.4421e-20
c75 72 Vss 7.30413e-19
c76 68 Vss 0.00150427f
c77 63 Vss 0.00289461f
c78 58 Vss 0.00236419f
c79 51 Vss 4.10742e-19
c80 46 Vss 1.61132e-19
c81 42 Vss 0.00131501f
c82 37 Vss 0.00193143f
c83 36 Vss 6.68718e-20
c84 26 Vss 0.057622f
c85 22 Vss 0.0712295f
c86 20 Vss 0.0247918f
c87 17 Vss 0.0369263f
c88 16 Vss 0.187844f
c89 8 Vss 0.0575023f
c90 2 Vss 0.084915f
r91 76 78 0.655813
r92 76 77 3.501
r93 72 77 0.655813
r94 54 63 1.16709
r95 54 72 2.00578
r96 51 54 0.5835
r97 49 58 1.16709
r98 46 49 0.5835
r99 42 68 1.16709
r100 42 78 2.00578
r101 38 46 0.0685365
r102 38 40 1.70882
r103 37 51 0.0685365
r104 37 40 2.87582
r105 36 58 0.0476429
r106 33 68 0.50025
r107 26 63 0.50025
r108 22 58 0.357321
r109 20 36 0.326018
r110 20 22 0.40845
r111 17 36 6.7686
r112 16 36 0.326018
r113 16 36 0.1167
r114 13 17 0.652036
r115 8 33 1.80885
r116 6 26 1.80885
r117 4 22 2.15895
r118 2 13 2.5674
.ends

.subckt PM_G3_MUXI2_N1_B 2 4 7 16 20 24 27 Vss
c22 27 Vss 0.00591505f
c23 24 Vss 5.28389e-19
c24 20 Vss 0.0298499f
c25 16 Vss 0.0664813f
c26 7 Vss 0.142354f
c27 4 Vss 0.272228f
c28 2 Vss 0.0800936f
r29 24 27 1.16709
r30 16 27 0.50025
r31 16 18 1.9839
r32 12 20 0.494161
r33 9 20 0.494161
r34 8 18 0.0685365
r35 7 20 0.128424
r36 7 8 4.7847
r37 4 12 9.04425
r38 2 9 2.62575
.ends

.subckt PM_G3_MUXI2_N1_Z 2 4 30 33 Vss
c33 30 Vss 0.00283949f
c34 4 Vss 0.00148239f
c35 2 Vss 0.00156677f
r36 33 35 5.16814
r37 30 33 4.00114
r38 4 35 1.16709
r39 2 30 1.16709
.ends

.subckt PM_G3_MUXI2_N1_A 2 4 14 19 22 Vss
c24 22 Vss 0.00548526f
c25 19 Vss 4.55558e-19
c26 14 Vss 0.0830192f
c27 2 Vss 0.4453f
r28 19 22 1.16709
r29 12 22 0.238214
r30 12 14 1.92555
r31 7 14 0.0685365
r32 2 4 12.837
r33 2 7 2.5674
.ends

